US08461179B1
1-(5-(7-amino-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-4-bromo-2-fluorophenyl)-3-phenylurea (90 mg, 0.181 mmol) was suspended in acetic anhydride (5 mL, 52.9 mmol) and heated at 110° C. for 4 h. The reaction was cooled to RT, poured onto ice (15 g), and stirred overnight. The solids were collected, rinsed well with H2O, air dried, then suspended in MeCN (2-3 mL) and heated at 80° C. overnight. The solids were collected by filtration, rinsed with MeCN and dried under vacuum to afford 1-(5-(7-acetamido-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-4-bromo-2-fluorophenyl)-3-phenylurea (56 mg, 57% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.84 (s, 1H), 9.10 (s, 1H), 8.73 (d, J=2.4 Hz, 1H), 8.71 (s, 1H), 8.26 (s, 1H), 8.22 (d, J=8.4 Hz, 1H), 7.95 (s, 1H), 7.7 (d, J=6.8 Hz, 1H), 7.42-7.40 (m, 2H), 7.28-7.24 (m, 2H), 6.98-6.95 (m, 1H), 4.19 (q, J=6.8 Hz, 2H), 2.15 (s, 3H), 1.25 (t, J=6.8 Hz, 3H); MS (ESI) m/z: 538.1 [M+H]+.

reactant | 1-(5-(7-amino-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-4-bromo-2-fluorophenyl)-3-phenylurea | 0.181 mmol, 90 mg | NC1=NC=C2C=C(C(N(C2=C1)CC)=O)C=1C(=CC(=C(C1)NC(=O)NC1=CC=CC=C1)F)Br | C23H19BrFN5O2
reactant | acetic anhydride | 52.9 mmol, 5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(5-(7-acetamido-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-4-bromo-2-fluorophenyl)-3-phenylurea | 56 mg, 57% yield | C(C)(=O)NC1=NC=C2C=C(C(N(C2=C1)CC)=O)C=1C(=CC(=C(C1)NC(=O)NC1=CC=CC=C1)F)Br | C25H21BrFN5O3
